US06172081B2
1-[1,2,3,4-tetrahydro-6,7-dimethoxy-3-isoquinolinyl]carbonyl-2-Pyrrolidinecarbonitrile [Diastereomer B].
Phosphorus oxychloride (239 mg, 0.15 mL, 1.56 mmol) was added to a solution of the title D compound of Example 6, 3-(2-aminocarbonyl-1-pyrrolidinyl)carbonyl-3,4-dihydro-6,7-dimethoxy-2(1H)-isoquinolinecarboxylic acid 2-(1,1-dimethylethyl) ester (259 mg, 0.6 mmol; diastereomer B) and imidazole (53 mg, 0.78 mmol) in pyridine (6 mL) at −45° C. The reaction was stirred for 1.75 hours, then allowed to stand at 8° C. overnight, after which the mixture was concentrated under vacuum. The residue was purified by flash chromatography on silica gel using 2% methanol in methylene chloride as eluent to give 205 mg of the title compound as a yellowish white solid.

reactant | Phosphorus oxychloride | 1.56 mmol, 0.15 mL, 239 mg | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 3-(2-aminocarbonyl-1-pyrrolidinyl)carbonyl-3,4-dihydro-6,7-dimethoxy-2(1H)-isoquinolinecarboxylic acid 2-(1,1-dimethylethyl) ester | 0.6 mmol, 259 mg | CC(C)(C)OC(=O)N1CC2=CC(=C(C=C2CC1C(=O)N1C(CCC1)C(=O)N)OC)OC | C22H31N3O6
reactant | imidazole | 0.78 mmol, 53 mg | N1C=NC=C1 | C3H4N2
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
product | 1-[1,2,3,4-tetrahydro-6,7-dimethoxy-3-isoquinolinyl]carbonyl-2-Pyrrolidinecarbonitrile | 205 mg | COC=1C=C2CC(NCC2=CC1OC)C(=O)N1C(CCC1)C#N | C17H21N3O3
